US04751295
C. 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetic acid (III-5, Z isomer)(3)
A solution of 348 mg (0.97 mmoles) of 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetic acid in 2 ml of trifluoroacetic acid was allowed to stand for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was triturated with 5 ml of isopropyl ether and 10 ml of hexane to give 215 mg (86%) of the title compound. Mp. 162°-165° C. (dec.) [lit(3) : mp. 160°-165° C. (dec.)].

reactant | 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetic acid | 0.97 mmoles, 348 mg | C(C)(C)(C)OC(=O)NC1=NC(=NS1)C(C(=O)O)=NOC1CCCC1 | C14H20N4O5S
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetic acid | 215 mg, 86% | NC1=NC(=NS1)C(C(=O)O)=NOC1CCCC1 | C9H12N4O3S
